US07960393B2
To a solution of N-(4-{([5-(2-amino-2-oxoethyl)-4-chloro-6-(dimethylamino)pyrimidin-2-yl]methyl}phenyl)-2-naphthamide (0.360 g, 0.76 mmol) in pyridine (15 mL) at rt was added trifluoroacetic anhydride (0.161 mL, 1.14 mmol) dropwise and the resulting reaction mixture was stirred at room temperature for 15 hours. The volatiles were removed in vacuo and the remaining residue was partitioned between EtOAc and saturated aqueous ammonium chloride solution. The separated organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Purification of the resulting crude product by silica gel chromatography eluting with 20% EtOH in CHCl3 gave N-(4-{([4-chloro-5-(cyanomethyl)-6-(dimethylamino)pyrimidin-2-yl]methyl}phenyl)-2-naphthamide as an amorphous solid (0.345 g, 100%).

reactant | 4-{([5-(2-amino-2-oxoethyl)-4-chloro-6-(dimethylamino)pyrimidin-2-yl]methyl}phenyl)-2-naphthamide | 0.76 mmol, 0.360 g | NC(CC=1C(=NC(=NC1N(C)C)CC1=C(C=CC=C1)C1=CC(=CC2=CC=CC=C12)C(=O)N)Cl)=O | C26H24ClN5O2
reactant | trifluoroacetic anhydride | 1.14 mmol, 0.161 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 4-{([4-chloro-5-(cyanomethyl)-6-(dimethylamino)pyrimidin-2-yl]methyl}phenyl)-2-naphthamide | 0.345 g, 100% | ClC1=NC(=NC(=C1CC#N)N(C)C)CC1=C(C=CC=C1)C1=CC(=CC2=CC=CC=C12)C(=O)N | C26H22ClN5O
